US04518532
Synthesis of N-[4-(3-aminopropyl)aminobutyl]-2-(9-guanidino-2-nonenamido)-2-hydroxyethanamide
A mixture of 206.2 mg (0.84 mmole) of 9-guanidino-2-nonenamide hydrochloride, 291.0 mg (1.00 mmole) of N-[4-(3-aminopropyl)aminobutyl]-2,2-dihydroxyethanamide dihydrochloride, 109.6 mg (0.84 mmole) of glutaric acid and 0.2 ml of water was heated at 60° C. for 24 hours. After completion of the reaction, the reaction mixture was purified in a manner similar to that in Example 1 using CM-Sephadex® C-25 (Na-type) and Sephadex® LH-20 to obtain 135.0 mg (31.1% yield) of a white powder of N-[4-(3-aminopropyl)aminobutyl]-2-(9-guanidino-2-nonenamido-2-hydroxyethanamide trihydrochloride.

reactant | 9-guanidino-2-nonenamide hydrochloride | 0.84 mmole, 206.2 mg | Cl.N(C(=N)N)CCCCCCC=CC(=O)N
reactant | N-[4-(3-aminopropyl)aminobutyl]-2,2-dihydroxyethanamide dihydrochloride | 1.00 mmole, 291.0 mg | Cl.Cl.NCCCNCCCCNC(C(O)O)=O
reactant | glutaric acid | 0.84 mmole, 109.6 mg | C(CCCC(=O)O)(=O)O | C5H8O4
reactant | 9-guanidino-2-nonenamido-2-hydroxyethanamide trihydrochloride | Cl.Cl.Cl.N(C(=N)N)CCCCCCC=CC(=O)NC(C(=O)N)O
solvent | water | 0.2 ml | O | H2O
product | N-[4-(3-aminopropyl)aminobutyl]-2-(9-guanidino-2-nonenamido)-2-hydroxyethanamide | 135.0 mg, 31.1% yield | NCCCNCCCCNC(C(O)NC(C=CCCCCCCNC(=N)N)=O)=O | C19H39N7O3
